US05790627
2, 9-Dimethyl-4, 7-diphenyl-1, 10-phenanthroline
2, 9-Dimethyl-4, 7-diphenyl-1, 10-phenanthrolinedisulfonic acid, disodium salt

reactant | 2, 9-Dimethyl-4, 7-diphenyl-1, 10-phenanthrolinedisulfonic acid | CC1(NC2=C3N=C(C=C(C3=CC=C2C(=C1S(=O)(=O)O)C1=CC=CC=C1)C1=CC=CC=C1)C)S(=O)(=O)O | C26H22N2O6S2
reactant | disodium | [Na][Na] | 2Na
product | 2, 9-Dimethyl-4, 7-diphenyl-1, 10-phenanthroline | CC1=NC2=C3N=C(C=C(C3=CC=C2C(=C1)C1=CC=CC=C1)C1=CC=CC=C1)C | C26H20N2
